US06331629B1
1. 2- Piperazinylquinoxaline
2-Hydroxyquinoxaline (1.5 g) is heated in phosphorus oxychloride (10 mL) for 12 h, after which the reaction is concentrated and the residue partitioned between methylene chloride and 1 N NaOH. The resulting crude chloride is taken up in toluene (10 mL) and this solution is then added dropwise to a refluxing solution of piperazine (5 g) in toluene (40 mL). The resulting solution is refluxed for an additional 24 h, cooled to 0° C. for 0.5 h, filtered and concentrated. The filtrate is extracted with 10% acetic acid and the aqueous extracts washed with ether, basified and extracted with toluene. The toluene layer is washed with water, dried and concentrated. The concentrated material, which may alternatively be named quinoxalin-2-ylpiperazine, is placed under vacuum overnight (1.2 g, 77%, m.p. 74-76° C.). 1H NMR (CDCl3) 8.6 (s, 1H), 7.87 (dd, J=8, 1 Hz, 1H), 7.68 (dd, J=8, 1 Hz, 1H), 7.57 (ddd, J=8, 7, 1 Hz, 1H), 7.39 (ddd, J=8, 7, 1 Hz, 1H), 3.76 (t, J=5 Hz, 4H), 3.02 (t, J=5 Hz, 4H).

reactant | 2-Hydroxyquinoxaline | 1.5 g | OC1=NC2=CC=CC=C2N=C1 | C8H6N2O
solvent | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2- Piperazinylquinoxaline | N1(CCNCC1)C1=NC2=CC=CC=C2N=C1 | C12H14N4
